US06413974B1
2-Chloro-6-[2,2,2-trifluoroethylamino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 2,2,2-trifluoroethylamine hydrochloride, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 2,2,2-trifluoroethylamine hydrochloride | Cl.FC(CN)(F)F
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[2,2,2-trifluoroethylamino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCC(F)(F)F | C12H13ClF3N5
